US04650612
25 grams of phthalic anhydride were dissolved in 150 ml of ethyl acetate and cooled to 10° C. Then there were added 3 grams of Lewatit MP 62. Subsequently, within 15 minutes, there were dropped in at the same temperature with stirring 11.5 grams of 50 wt. % hydrogen peroxide. Stirring was containued for 1 hour, whereby the temperature of the mixture increased to about 20° C. Then there was separated off the ion exchanger and there were obtained from the solution 25.4 grams of monoperoxyphthalic acid having an AO content of 7.0%.

reactant | phthalic anhydride | 25 grams | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | hydrogen peroxide | OO | H2O2
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | monoperoxyphthalic acid | 25.4 grams | C1=CC(=C(C(=C1)OO)C(=O)O)C(=O)O | C8H6O6
